US07312241B2
3-(3-Benzyloxyphenyl)-3-(3,5-dimethoxyphenyl)acrylonitrile (3.45 g), 20% palladium hydroxide on charcoal (0.103 g, 3% w.t.), cyclohexene (12 ml), and ethanol (24 ml) were heated to reflux overnight. The black suspension was cooled, filtered through a Celite pad, and concentrated to an oil, which was purified via flash column chromatography (5% EtOAc in hexane gradient to 30% EtOAc in hexane in about 30 min.) to give 3-(3,5-dimethoxy-phenyl)-3-(3-hydroxy-phenyl)-acrylonitrile as an off-white solid (1.66 g, 64%): mp, 127-129° C.; 1HNMR (DMSO-d6) δ 9.73 (s, 0.67H, OH of one isomer), 9.65 (s, 0.26H, OH of the other isomer), 7.33-7.23 (m, 1H, Ar), 6.92-6.62 (m, 4H, Ar), 6.46 (d, J=2 Hz, 2H, Ar), 6.32 (s, 0.73H, double bond proton of one isomer), 6.27 (s, 0.27H, double bond proton of the other isomer), 3.77 (s, 1.85H, 2OCH3 of one isomer), 3.73 (s, 4.29H, 2OCH3 of the other isomer), isomer ratio 27.6%:72.4%; 13C NMR (DMSO-d6) δ 161.5, 160.4, 157.4, 157.2, 139.9, 138.7, 138.1, 129.7, 119.7, 118.7, 118.0, 117.5, 116.7, 115.7, 115.0, 107.1, 106.6, 101.8, 101.0, 96.3, 96.0, 55.4; Anal. Calcd. For C17H15NO3: C, 72.58; H, 5.37; N, 4.98. Found: C, 72.40; H, 5.26; N, 4.85.

reactant | 3-(3-Benzyloxyphenyl)-3-(3,5-dimethoxyphenyl)acrylonitrile | 3.45 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C(=CC#N)C1=CC(=CC(=C1)OC)OC | C24H21NO3
reactant | cyclohexene | 12 ml | C1=CCCCC1 | C6H10
catalyst | palladium hydroxide on charcoal | 0.103 g | [OH-].[OH-].[Pd+2]
solvent | ethanol | 24 ml | C(C)O | C2H6O
product | 3-(3,5-dimethoxy-phenyl)-3-(3-hydroxy-phenyl)-acrylonitrile | 1.66 g, 64% | COC=1C=C(C=C(C1)OC)C(=CC#N)C1=CC(=CC=C1)O | C17H15NO3
